US07402595B2
[Step 1] 4-[(2-hydroxyhexylamino)methyl]benzenesulfonamide hydrochloride
In the same manner as in Example 452, Step 1, the title compound was synthesized from 4-aminomethylbenzenesulfonamide hydrochloride and 1,2-epoxyhexane.

reactant | 4-aminomethylbenzenesulfonamide hydrochloride | Cl.NCC1=CC=C(C=C1)S(=O)(=O)N
reactant | 1,2-epoxyhexane | O1CC1CCCC | C6H12O
product | 4-[(2-hydroxyhexylamino)methyl]benzenesulfonamide hydrochloride | Cl.OC(CNCC1=CC=C(C=C1)S(=O)(=O)N)CCCC | InChI=1S/C13H22N2O3S.ClH/c1-2-3-4-12(16)10-15-9-11-5-7-13(8-6-11)19(14,17)18;/h5-8,12,15-16H,2-4,9-10H2,1H3,(H2,14,17,18);1H
